US08859732B2
3,5-Di(docosyloxy)benzyl alcohol (500 mg, 0.66 mmol) was dissolved in chloroform (5 ml), thionyl chloride (71 μl, 0.99 mmol) and DMF (10 μl, 0.13 mmol) were added dropwise, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was precipitated with acetonitrile to give 3,5-di(docosyloxy)benzylchloride (505 mg, 0.65 mmol, 99%).

reactant | 3,5-Di(docosyloxy)benzyl alcohol | 0.66 mmol, 500 mg | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C51H96O3
reactant | thionyl chloride | 0.99 mmol, 71 μl | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.13 mmol, 10 μl | CN(C)C=O | C3H7NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-di(docosyloxy)benzylchloride | 0.65 mmol, 505 mg, 99% | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C51H95ClO2
